US04616010
A suspension of 8.20 g (35 mmol) of (S)-7-fluoro-1,2,3,11a-tetrahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione in 40 ml of dry N,N-dimethylformamide is treated at -30° to -20° with 1.53 g (35 mmol) of sodium hydride (55 percent oil dispersion), the mixture is stirred at the above temperature for a further 35 minutes, and then at -60° there are added dropwise 7.25 ml (35 mmol) of phosphoric acid diphenyl ester chloride in 7 ml of dry N,N-dimethylformamide. The temperature is allowed to rise to -35°, the mixture is then again cooled to -70° and there is added a solution of 5.03 g (35 mmol) of 3-chlorobenzyl isocyanide in 5 ml of dry N,N-dimethylformamide, and subsequently there is added a solution of 3.92 g (35 mmol) of potassium t-butylate in 7 ml of dry N,N-dimethylformamide. After completion of the addition, the mixture is left to warm to 20°, neutralized by the addition of 1.5 ml of glacial acetic acid and poured into 250 ml of water. The mixture is extracted five times with methylene chloride, the combined organic extracts are washed three times with water, dried over magnesium sulfate, and evaporated. The residue is chromatographed on silica gel while eluting with ethyl acetate and recrystallized from ethyl acetate and n-hexane. There is obtained (S)-1-(m-chlorophenyl)-7-fluoro-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one having a melting point of 182°-183°.

reactant | (S)-7-fluoro-1,2,3,11a-tetrahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione | 35 mmol, 8.20 g | FC=1C=CC2=C(C(N3[C@H](C(N2)=O)CCC3)=O)C1 | C12H11FN2O2
reactant | sodium hydride | 35 mmol, 1.53 g | [H-].[Na+]
reactant | phosphoric acid diphenyl ester chloride | 35 mmol, 7.25 ml | [Cl-].C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(O)=O
reactant | 3-chlorobenzyl isocyanide | 35 mmol, 5.03 g | ClC=1C=C(C[N+]#[C-])C=CC1 | C8H6ClN
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | (S)-1-(m-chlorophenyl)-7-fluoro-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | ClC=1C=C(C=CC1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3)F)=O)CCC1 | C20H15ClFN3O
